US07595312B2
A2b 1-cyclopropylmethyl-4-piperidin-4-yl-piperazine
5 mL TFA were added to a solution of 1.36 g (4.2 mmol) tert. butyl 4-(4-cyclopropylmethyl-piperazin-1-yl)-piperidine-1-carboxylate in 30 mL DCM and the reaction mixture was stirred for 4 h at RT. The reaction solution was evaporated down i.vac., the residue combined with diethyl ether, the precipitate was suction filtered and dried. The product was precipitated as the tris-trifluoroacetate salt.

reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert. butyl 4-(4-cyclopropylmethyl-piperazin-1-yl)-piperidine-1-carboxylate | 4.2 mmol, 1.36 g | C1(CC1)CN1CCN(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H33N3O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-cyclopropylmethyl-4-piperidin-4-yl-piperazine | C1(CC1)CN1CCN(CC1)C1CCNCC1 | C13H25N3
